US04093631
A mixture of 7-(2,3-epoxypropoxy)-2,2-dimethyl-4-phenylchroman (6.1g), anhydrous dimethylamine (15ml) and ethanol were left to stand at ambient temperature until tlc showed that reaction was complete (c. 2hrs.). Removal of the solvent in vacuo gave 7-(2-hydroxy-3-dimethylaminopropoxy)-2,2-dimethyl-4-phenylchroman (6.8g, 97%) isolated as the hydrochloride salt, m.p. 210°-215°, from acetone-ethanol.

reactant | 7-(2,3-epoxypropoxy)-2,2-dimethyl-4-phenylchroman | 6.1g | O1C(COC2=CC=C3C(CC(OC3=C2)(C)C)C2=CC=CC=C2)C1 | C20H22O3
reactant | dimethylamine | 15ml | CNC | C2H7N
solvent | ethanol | C(C)O | C2H6O
product | 7-(2-hydroxy-3-dimethylaminopropoxy)-2,2-dimethyl-4-phenylchroman | 6.8g, 97% | OC(COC1=CC=C2C(CC(OC2=C1)(C)C)C1=CC=CC=C1)CN(C)C | C22H29NO3
